US08217064B2
Cyclopropylmethyl 2-(4-(benzo[c][1,2,5]oxadiazol-5-yl)-5-(cyclopropylmethoxy)-2-fluorophenyl)-4-methylpentanoate (0.14 g, 0.29 mmol) was dissolved in a mixture of EtOH/H2O (9 mL/1 mL) and KOH (0.3 g) was added. The reaction mixture was refluxed for 2 h and after cooling the solvent was evaporated. Then, 6 N HCl was added to adjust the pH to 5, and the reaction mixture was extracted with EtOAc (3×10 mL). The combined organic phases were dried over MgSO4 and evaporated under reduced pressure to give a colorless oil. Purification by gradient column chromatography on silica gel Heptane-EtOAc (50:1-9:1) gave 2-(4-(benzo[c][1,2,5]oxadiazol-5-yl)-5-(cyclopropylmethoxy)-2-fluorophenyl)-4-methylpentanoic acid as a white solid (0.12 g, quantitative); pure portion (0.03 g, 25%); white microcrystals, M.P.=110-111° C., 1H NMR (300 MHz, CDCl3/TMS): δ 8.99 (br s, 1H), 7.66 (br s, 4H), 7.05 (d, J=9.9 Hz, 1H), 6.94 (d, J=5.2 Hz, 1H), 4.08 (t, J=7.7 Hz, 1H), 3.76 (d, J=6.6 Hz, 2H), 2.04-1.90 (m, 1H), 1.81-1.65 (m, 1H), 1.60-1.45 (m, 1H), 1.32-1.05 (m, 2H), 0.94 (d, J=6.0 Hz, 6H), 0.54 (d, J=7.4 Hz, 2H), 0.24 (d, J=3.9 Hz, 2H). 13C NMR (75 MHz, CDCl3/TMS): δ 179.2, 154.7 (d, 1JCF=239.8 Hz), 152.0, 140.6, 132.0, 129.9, 129.6, 125.7 (d, 2JCF=16.2 Hz), 124.8 (q, 3JCF=3.6 Hz), 124.0 (q, 1JCF=270 Hz), 117.2 (d, 2JCF=25.2 Hz), 113.9, 74.2, 41.3, 29.8, 25.9, 22.8, 22.1, 10.3, 3.2.

reactant | Cyclopropylmethyl 2-(4-(benzo[c][1,2,5]oxadiazol-5-yl)-5-(cyclopropylmethoxy)-2-fluorophenyl)-4-methylpentanoate | 0.29 mmol, 0.14 g | N=1ON=C2C1C=CC(=C2)C2=CC(=C(C=C2OCC2CC2)C(C(=O)OCC2CC2)CC(C)C)F | C26H29FN2O4
solvent | EtOH H2O | 9 mL | CCO.O
solvent | KOH | 0.3 g | [OH-].[K+]
product | 2-(4-(benzo[c][1,2,5]oxadiazol-5-yl)-5-(cyclopropylmethoxy)-2-fluorophenyl)-4-methylpentanoic acid | N=1ON=C2C1C=CC(=C2)C2=CC(=C(C=C2OCC2CC2)C(C(=O)O)CC(C)C)F | C22H23FN2O4
